US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-7-fluoro-1H-indole
Utilizing 1-ethyl-5-fluoro-indan-1-ol and 7-fluoroindole, the title compound is prepared as in example 1. 217 mg (92%). NMR (400 MHz, CDCl3): δ 0.85 (t, 3H), 2.12 (m, 1H), 2.21 (m, 1H), 2.31 (m, 1H), 2.58 (m, 1H), 2.97 (m, 2H), 6.83 (m, 4H), 6.98 (m, 3H), 8.06 (s, 1H, NH).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | 7-fluoroindole | FC=1C=CC=C2C=CNC12 | C8H6FN
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-7-fluoro-1H-indole | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)F | C19H17F2N
